US07189851B2
A. Ethyl 6,6,6-trifluoro-3-oxohexanoate
To a stirred solution of Meldrum's Acid (3.0 g, 20.8 mmol) in 100 mL of CH2Cl2, 4-trifluoromethyl butyric acid (2.96 g, 20.8 mmol) was added followed by DMAP (5.08 g, 41.6 mmol) and finally DCC (4.30 g, 20.8 mmol). The reaction stirred overnight at room temperature. The mixture was then filtered and the filtrate washed with 1M HCl, H2O and Brine. The organics were then dried over sodium sulfate, filtered and concentrated to a yellow oil. The material was then dissolved in 100 mL of EtOH and refluxed overnight. The reaction mixture was concentrated and purified by column chromatography (ethyl acetate/hexanes (1:4)) to yield 1.88 g (43%) of a clear oil.: 1H NMR (CDCl3, 400 MHz) δ 4.24–4.10 (q, 2H, J=7.14), 3.45 (s, 2H), 2.93–2.73 (t, 2H, J=7.88), 2.52–2.28 (m, 2H), 1.31–1.20 (t, 3H, J=7.14)

reactant | Meldrum's Acid | 20.8 mmol, 3.0 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | 4-trifluoromethyl butyric acid | 20.8 mmol, 2.96 g | FC(CCCC(=O)O)(F)F | C5H7F3O2
reactant | DCC | 20.8 mmol, 4.30 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 41.6 mmol, 5.08 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | Ethyl 6,6,6-trifluoro-3-oxohexanoate | 1.88 g, 43% | FC(CCC(CC(=O)OCC)=O)(F)F | C8H11F3O3
